US09402833B2
NaNO2 (2.69 g, 39.9 mmol) in water (20 mL) was added slowly at 0° C. to a solution of 7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-amine (4.5 g, 26 mmol) in aq.47% HBr (20 mL) and continued stirring at same temperature for 30 min. The above diazonium salt solution was added slowly to a solution of CuBr (5.7 g, 39.9 mmol) in aq.47% HBr (25 mL) at 0° C. and stirred at 25° C. for 30 min. Reaction mixture was quenched with ice water, extracted with ethyl acetate (3×50 mL), washed it with water followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford crude. The crude was purified by column purification (using silica gel and 0-5% ethyl acetate in Hexane as eluent) to afford 5-bromo-7-fluoro-2,3-dihydrobenzo[b][1,4]dioxine (Int-53) (5.9 g). 1H NMR (300 MHz, CDCl3) δ ppm 6.9-6.84 (1H, dd), 6.6-6.5 (1H, dd), 4.3-4.3 (4H, m).

reactant | NaNO2 | 39.9 mmol, 2.69 g | N(=O)[O-].[Na+]
reactant | 7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-amine | 26 mmol, 4.5 g | FC=1C=C(C2=C(OCCO2)C1)N | C8H8FNO2
reactant | HBr | 20 mL | Br | BrH
reactant | HBr | 25 mL | Br | BrH
solvent | water | 20 mL | O | H2O
product | 5-bromo-7-fluoro-2,3-dihydrobenzo[b][1,4]dioxine | 5.9 g | BrC1=CC(=CC=2OCCOC21)F | C8H6BrFO2
